US08895761B2
Silver nitrate (26 g, 0.154 mol) is added to a stirred mixture of (1S*,5S*)-2,3,4,4-tetrachloro-1-ethoxymethyl-8-oxabicyclo[3.2.1]octa-2,6-diene (23.5 g, 0.077 mol), acetone (450 ml) and water (450 ml) and the mixture is heated at 65° C. for 16 hours. The reaction mixture is cooled to room temperature, and a saturated solution of aqueous sodium bicarbonate is added to adjust the pH to 7-8. The mixture is filtered through a plug of diatomaceous earth, and the filtrate is concentrated under reduced pressure to remove most of the acetone. The aqueous mixture is extracted with ethyl acetate (3×250 ml) and the organic extracts are combined, dried over anhydrous sodium sulfate, filtered and the filtrate is evaporated. The residue is purified by column chromatography on silica gel to give (1S*,5S*)-3,4-dichloro-5-ethoxymethyl-8-oxabicyclo[3.2.1]octa-3,6-dien-2-one (6 g) as a yellow oil.

reactant | (1S*,5S*)-2,3,4,4-tetrachloro-1-ethoxymethyl-8-oxabicyclo[3.2.1]octa-2,6-diene | 0.077 mol, 23.5 g | ClC=1[C@]2(C=C[C@@H](C(C1Cl)(Cl)Cl)O2)COCC | C10H10Cl4O2
reactant | acetone | 450 ml | CC(=O)C | C3H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Silver nitrate | 0.154 mol, 26 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 450 ml | O | H2O
product | (1S*,5S*)-3,4-dichloro-5-ethoxymethyl-8-oxabicyclo[3.2.1]octa-3,6-dien-2-one | 6 g | ClC=1C([C@@H]2C=C[C@](C1Cl)(O2)COCC)=O | C10H10Cl2O3
